US05693663
16 g (0.048 mol) of ethyl N-(2,4,6-trimethylphenyl-acetyl-4,5-dimethyl-pyrrolidine-2-carboxylate in 50 ml of absolute toluene are added dropwise to a boiling solution of 2 g (0.067 mol) of NaH in 50 ml of absolute toluene and the mixture is refluxed. The end of the reaction is determined by TLC monitoring. The mixture is subsequently allow to cool to room temperature, and absolute ethanol is added with cooling until hydrogen is no longer evolved. The reaction mixture is evaporated under reduced pressure, the residue is taken up in water, and the mixture is acidified at room temperature using concentrated hydrochloric acid. The precipitate is filtered off with suction and dried in vacuo at 70° C. over P2O5. Purification is effected by extracting by boiling with chloroform/methyl tert-butyl ether and ether/n-hexane. 6.2 g (45.3%) of theory of 3-(2,4,6-trimethylphenyl)-1-aza-7,8-dimethyl-bicyclo-(3.3.01.5)-octane-2,4-dione of a melting point of >220° C. are obtained.

reactant | 2,4,6-trimethylphenyl-acetyl-4,5-dimethyl-pyrrolidine-2-carboxylate | CC1=C(C(=CC(=C1)C)C)C1(N(C(C(C1)C)C)C(C)=O)C(=O)[O-]
reactant | NaH | 0.067 mol, 2 g | [H-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | octane-2,4-dione | CC(CC(CCCC)=O)=O | C8H14O2
